Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:3]([H:4])([H:5])=[C:6][H:7].[H:1][C:2]([H:8])=[C:9][C:10]([H:11])([H:12])[H:13]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13],1.80586692257
[H:1][C:2]=[C:3]=[C:4][C:5]([H:6])([H:7])[C:8][O:9][H:10]>>[C:4][C:5]([H:6])([H:7])[C:8][O:9][H:10].[H:1][C:2]#[C:3],5.82816704739
[C:4]([H:5])([H:6])=[C:7][O:8][C:9]=[C:10]([H:11])[H:12].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7][O:8][C:9]=[C:10]([H:11])[H:12],-3.4815304371499995
[O:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]#[C:8][H:9]>>[H:9].[O:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8],3.9461452798
[H:1][C:2]#[C:3][C:4]([O:5][C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:6]([H:7])[H:8].[H:1][C:2]#[C:3][C:4](=[O:5])[C:9]([H:10])([H:11])[H:12],2.7693684009
[H:1][O:2][C@:3]1([H:4])[C:5]([H:6])([H:7])[C@@:8]1([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[H:7])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-0.026948010729900003
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8](=[C:9][H:10])[O:11][H:12]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][H:10].[O:11][H:12],3.02201430098
[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6].[O:7][H:8]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][H:8],-4.91404774298
[O:1]=[C:2]=[C:3][C:4]([H:5])([H:6])[C:7]#[C:8][H:9]>>[C:2]#[C:3][C:4]([H:5])([H:6])[C:7]#[C:8][H:9].[O:1],7.028187090289999
[C:1]#[C:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9][H:10]>>[C:1]#[C:2][C:3]([H:4])[O:5][C:6]([H:7])=[C:9][H:10].[H:8],1.6046091475600002
[H:1][O:2]/[C:3]([H:4])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15].[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15],-1.70779412057
[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[C:9]1[C:10][O:11]1>>[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[C:9]=[C:10]=[O:11],-2.20947917811
[H:1][C:2]#[C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])[O:10][H:11]>>[C:4](\[H:5])([O:6][H:7])=[C:8](/[H:9])[O:10][H:11].[H:1][C:2]#[C:3],2.92970372607
[H:1][C:2]=[C:3]([O:4][H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]=[C:3]([O:4][H:5])[C:6](=[C:7][H:8])[C:10]([H:11])([H:12])[H:13].[H:9],5.029478718969999
[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3]([H:4])[C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:5],4.27672626176
[H:1][O:2][C:3][C:4]1=[C:5]([C:6]([H:7])[H:8])[O:9]1>>[H:1][O:2][C:3]#[C:4][O:9][C:5]=[C:6]([H:7])[H:8],0.87146114092
[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[C@:12]([C:9]([H:10])[H:11])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([H:3])[C@@:4]1([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C@@:12]1([H:13])[C:14]([H:15])([H:16])[H:17],0.0938205588009
[H:1][C:2]([H:3])=[C:4]=[C:9]([H:10])[C:11]([C:5]([H:6])=[C:7][H:8])([H:12])[H:13]>>[H:1][C:2]([H:3])=[C:4][C@@:5]1([H:6])[C:7]([H:8])=[C:9]([H:10])[C:11]1([H:12])[H:13],-0.39826351475
[H:9].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[O:8])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([O:8][H:9])[C:10]([H:11])([H:12])[H:13],-1.47548334415
[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[H:4].[O:1]1[C:2]([C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12])[C:3]1,3.63993790901
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6][O:7][C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:12].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6][O:7][C:8]([H:9])=[C:10][H:11],5.1152368757
[H:1][C:2]#[C:3][C:4]([H:5])([C:6]#[C:7][H:8])[O:9][H:10]>>[H:1][C:2]#[C:3][C:4]([C:6]#[C:7][H:8])[O:9][H:10].[H:5],3.13410854329
[C:8]([H:9])([H:10])=[C:11][C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:6][H:7]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15],-1.99023389399
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13].[H:1][C:2],7.2655378511
[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.04814026954
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[C:4]([H:5])([H:6])=[C:7]([O:8][H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3],3.04283195058
[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7][C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]([H:3])([H:4])[C:5].[O:6]=[C:7][C:8]([H:9])([H:10])[H:11],0.8715950844499999
[H:1][O:2][C:3]([H:4])[H:5].[O:6][C:7]#[C:8][C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]#[C:8][C:9]([H:10])([H:11])[H:12],-2.01089146064
[C:4]#[C:5][C:6]([H:7])([H:8])[H:9].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4]#[C:5][C:6]([H:7])([H:8])[H:9],-5.284322239090001
[C:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]#[C:8][H:9]>>[C:1]([C:4][C:7]#[C:8])([H:6])[H:9].[C:2]#[C:3][H:5],3.2629673822000003
